US06455571B1
40A. (±)-(2R,3R,5R)-1-Benzyl-2-vinyl-3-(acetoxymethyl)-pyrrolidine-5-carboxylic Acid t-Butyl Ester
(±)-(2R,3R,5R)-1-Benzyl-2-vinyl-3-(hydroxymethyl)-pyrrolidine-5-carboxylic acid t-butyl ester (54.2 g, 0.17 mol) and 4-(dimethylamino)pyridine (0.5 g, 4.1 mmol), in anhydrous pyridine (400 mL) was reacted with acetic anhydride (30 mL, 0.32 mol) at 0° C. for 1 hour then allowed to warm to room temperature. The reaction was stirred an additional 16 hours. The pyridine was removed in vacuo at 30° C. The residue was partitioned between ethyl acetate (100 mL) and of water (400 mL). The aqueous layer was extracted with ethyl acetate (3×100 mL) and the combined ethyl acetate layers were washed with brine, dried with MgSO4, filtered, and concentrated. The crude product was purified by chromatography on silica gel using 10% ethyl acetate/hexanes to provide the title compound as a colorless oil (yield: 49.6 g, 81%).

reactant | (±)-(2R,3R,5R)-1-Benzyl-2-vinyl-3-(hydroxymethyl)-pyrrolidine-5-carboxylic acid t-butyl ester | 0.17 mol, 54.2 g | C(C)(C)(C)OC(=O)[C@H]1C[C@H]([C@H](N1CC1=CC=CC=C1)C=C)CO | C19H27NO3
reactant | acetic anhydride | 0.32 mol, 30 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-(dimethylamino)pyridine | 4.1 mmol, 0.5 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 400 mL | N1=CC=CC=C1 | C5H5N
product | (±)-(2R,3R,5R)-1-Benzyl-2-vinyl-3-(acetoxymethyl)-pyrrolidine-5-carboxylic Acid t-Butyl Ester | yield: 49.6 g, 81% | C(C)(C)(C)OC(=O)[C@H]1C[C@H]([C@H](N1CC1=CC=CC=C1)C=C)COC(C)=O | C21H29NO4
